US09029399B2
Preparation of 1-(benzo[b]thiophen-6-yl)-3-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (16A)
Using analogous reagents and reaction conditions as described in Example 1 above, 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (I-1d: 100 mg, 0.492 mmol) was reacted with 6-bromobenzo[b]thiophene (195 mg, 0.541 mmol), 1,4-dioxane (6 mL), copper iodide (9.3 mg, 0.049 mmol), trans-N,N′-dimethylcyclohexane-1,2-diamine (6.9 mg, 0.049 mmol) and potassium phosphate (260 mg, 1.23 mmol) to afford the crude product. Purification by column chromatography on silica gel (0.5% methanol in CHCl3) afforded 120 mg of the product (73% yield).

reactant | 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 0.492 mmol, 100 mg | C1(CC1)C1=C(C=NC=C1)N1C(NCC1)=O | C11H13N3O
reactant | 6-bromobenzo[b]thiophene | 0.541 mmol, 195 mg | BrC=1C=CC2=C(SC=C2)C1 | C8H5BrS
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.049 mmol, 6.9 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium phosphate | 1.23 mmol, 260 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper iodide | 0.049 mmol, 9.3 mg | [Cu](I)I
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | 1-(benzo[b]thiophen-6-yl)-3-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 120 mg, 73% yield | S1C2=C(C=C1)C=CC(=C2)N2C(N(CC2)C=2C=NC=CC2C2CC2)=O | C19H17N3OS
